US08030304B2
3-(4-Chloro-2-morpholin-4-yl-thiazol-5-yl)-7-(1-ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine
Under a nitrogen atmosphere dissolve 3-(4-bromo-2-morpholin-4-yl-thiazol-5-yl)-7-(1-ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine (116 mg, 0.25 mmol) in THF (1.5 mL) and chill to −78° C. Add n-butyl lithium (0.1 mL. 2.5 M in hexane, 0.25 mmol) and stir at −78° C. for 30 min. Add N-chlorosuccinimide (33.4 mg, 0.25 mmol) and stir for another 30 min, slowly warming to room temperature. After stirring overnight, quench the reaction by adding a solution of saturated ammonia chloride and extract with ethyl acetate. Wash the organic layer with brine, dry over sodium sulfate, filter, and concentrate to a residue. Purify the crude material by flash chromatography, eluting with hexanes:dichloromethane:ethyl acetate (5:5:2) to provide the title compound (54 mg). MS (APCI) m/z (35Cl) 420.6 (M+1)+; 1H NMR (400 MHz, CDCl3): 6.44 (s, 1H), 3.79 (t, 4H, J=4.8 Hz), 3.63-3.56 (m, 1H), 3.47 (t, 4H, J=4.8 Hz), 2.55 (s, 3H), 2.45 (s, 3H), 1.88-1.75 (m, 4H), 0.87 (t, 6H, J=7.5 Hz).

reactant | 3-(4-bromo-2-morpholin-4-yl-thiazol-5-yl)-7-(1-ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | 0.25 mmol, 116 mg | BrC=1N=C(SC1C=1C(=NN2C1N=C(C=C2C(CC)CC)C)C)N2CCOCC2 | C20H26BrN5OS
reactant | n-butyl lithium | 0.25 mmol, 2.5 M, 0.1 mL | C(CCC)[Li]
reactant | N-chlorosuccinimide | 0.25 mmol, 33.4 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | ammonia chloride | [Cl-].N
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 3-(4-Chloro-2-morpholin-4-yl-thiazol-5-yl)-7-(1-ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | 54 mg | ClC=1N=C(SC1C=1C(=NN2C1N=C(C=C2C(CC)CC)C)C)N2CCOCC2 | C20H26ClN5OS
